US08466176B2
To a solution of tert-butyl (6-bromopyridin-2-yl)carbamate (15.960 g, 58.43 mmol, 1 eq.) in 300 ml of THF cooled to −78° C. was added MeLi (1.6 M, 36.52 ml, 58.43 mmol, 1 eq.) dropwise and stirring allowed for 30 min. Then BuLi (1.6 M, 40.17 ml, 64.27 mmol, 1.1 eq.) was added dropwise and stirring allowed for 1 h. DMF (9.36 g, 128.55 mmol, 2.2 eq.) was added and the mixture was stirred 30 min at −78° C. and 1 h at r.t. The reaction was quenched with sat. aqueous NH4Cl, and DCM was added. The aqueous layer was extracted with DCM and then organics were combined, dried over MgSO4 and concentrated to give tert-butyl (6-formylpyridin-2-yl)carbamate (13.46 g) as a clear oil that was used directly in next step.

reactant | tert-butyl (6-bromopyridin-2-yl)carbamate | 58.43 mmol, 15.960 g, 1 eq. | BrC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C10H13BrN2O2
reactant | MeLi | 58.43 mmol, 1.6 M, 36.52 ml, 1 eq. | [Li]C
reactant | BuLi | 64.27 mmol, 1.6 M, 40.17 ml, 1.1 eq. | [Li]CCCC
reactant | DMF | 128.55 mmol, 9.36 g, 2.2 eq. | CN(C)C=O | C3H7NO
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | tert-butyl (6-formylpyridin-2-yl)carbamate | 13.46 g | C(=O)C1=CC=CC(=N1)NC(OC(C)(C)C)=O | C11H14N2O3
